US04245097
Di-iso-butylaluminum hydride (54 ml., 25% solution in toluene) is added with stirring to a solution of 4-(16-bromohexadecylamino)benzonitrile (11.4 g.) under a nitrogen atmosphere. The temperature rises to 40° C. during the 30 minute addition and then the reaction is then stirred for 1 hour. A solution of methanol in toluene (50 ml., 1:1) was added over 30 minutes and the mixture is poured into vigorously stirred ice-cold aqueous sulfuric acid (50 ml., 5%). After 10 minutes diatomaceous earth (30 g.) is added, the mixture filtered and the organic layer separated. The aqueous solution is extracted twice with toluene (100 ml.) and the combined organic layers are washed with aqueous sodium bicarbonate, dried over magnesium sulfate, decolorized with charcoal, filtered and evaporated in vacuo to give a light yellow crystalline solid. The crude product is recrystallized from dichloromethane-hexane to yield 4-(16-bromohexadecylamino)benzaldehyde as a white solid.

reactant | Di-iso-butylaluminum hydride | 54 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 4-(16-bromohexadecylamino)benzonitrile | 11.4 g | BrCCCCCCCCCCCCCCCCNC1=CC=C(C#N)C=C1 | C23H37BrN2
reactant | methanol | CO | CH4O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(16-bromohexadecylamino)benzaldehyde | BrCCCCCCCCCCCCCCCCNC1=CC=C(C=O)C=C1 | C23H38BrNO
